************* Discrete Power Bipolar Model ***********************
** Medium Power Linear Switching Applications
** Connections: Collector
**              |  Base
**              |  |  Emitter
**              |  |  |
**-----------------------------------------------------------------
.SUBCKT TIP122  1  2  3
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 7.75
D1 3 1 Dmodel
R1 2 4 8.0E3
R2 4 3 120
.MODEL Dmodel D
+ IS=10.00E-15  RS=1.000E-3   N=1        XTI=3
+ CJO=10.00E-21 VJ=1          M=0.5      FC=0.5
.MODEL Q1model NPN
+ IS=9.270E-9   BF=257        NF=1       VAF=100
+ IKF=0.1068    ISE=8.100E-9  NE=1.5     BR=0.0007915
+ NR=1          VAR=100       IKR=0.114  ISC=1.630E-10
+ NC=2.0        RB=0.00012    RE=0.00045 RC=1.58245 
+ EG=1.110      CJE=1.10E-10  VJE=0.75   MJE=0.63 
+ TF=1.000E-9   XTF=1         VTF=10     ITF=1.00E-2
+ CJC=1.75E-11 VJC=0.75       MJC=0.18    XCJC=0.9
+ FC=0.5        TR=1.000E-9
.MODEL Q2model NPN
+ IS=9.270E-9   BF=257        NF=1       VAF=100
+ IKF=0.1068    ISE=8.100E-9  NE=1.5     BR=0.0007915
+ NR=1          VAR=100       IKR=0.114  ISC=1.630E-10
+ NC=2.0        RB=0.00012    RE=0.00045 RC=1.58245 
+ EG=1.110      CJE=1.10E-10  VJE=0.75   MJE=0.63 
+ TF=1.000E-9   XTF=1         VTF=10     ITF=1.00E-2
+ CJC=1.75E-11  VJC=0.75      MJC=0.18   XCJC=0.9
+ FC=0.5        TR=1.000E-9
.ENDS
**-----------------------------------------------------------------
** Creation: Sep.-02-2008   Rev: 0.0
** Fairchild Semiconductor

